US05824691
2-Chloro-1-methylpyridinium iodide (3.6 g) was added to a mixture of 5-cyano-3-(pyrrol-1-yl)benzoic acid (2.0 g), guanidine hydrochloride (2.7 g) and triethylamine (7.2 ml) in N,N-dimethylformamide (30 ml), and the mixture was stirred for 4 hours at ambient temperature. The reaction mixture was added to a mixture of ethyl acetate, tetrahydrofuran and water, and adjusted to pH 10 with potassium carbonate. The separated organic layer was washed with brine and dried over magnesium sulfate. The solvent was removed by concentration and the residue was triturated with ether to give 2-[5-cyano-3-(pyrrol-1-yl)benzoyl]guanidine (1.49 g).

reactant | 2-Chloro-1-methylpyridinium iodide | 3.6 g | [I-].ClC1=[N+](C=CC=C1)C
reactant | 5-cyano-3-(pyrrol-1-yl)benzoic acid | 2.0 g | C(#N)C=1C=C(C=C(C(=O)O)C1)N1C=CC=C1 | C12H8N2O2
reactant | guanidine hydrochloride | 2.7 g | Cl.NC(=N)N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 7.2 ml | C(C)N(CC)CC | C6H15N
product | 2-[5-cyano-3-(pyrrol-1-yl)benzoyl]guanidine | 1.49 g | C(#N)C=1C=C(C=C(C(=O)N=C(N)N)C1)N1C=CC=C1 | C13H11N5O
